US05147879
3.0 g (9.49 mmoles) of O-(3-piperidino-2-chloro-1-propyl)-benzhydroximic acid chloride were dissolved in 10 ml of ethanol, under stirring 0.86 g (1.05·10-2 moles) of sodium acetate in 15 ml of water were added and the mixture was stirred for 3 hours at 50° C. The reaction mixture was evaporated in vacuo and the residue was extracted with benzene. The benzene extract was dried over sodium sulfate and evaporated, thus providing 2.12 g of oily O-(3-piperidino-2-acetoxy-1-propyl)-benzhydroximic acid chloride. The ester thus obtained was dissolved in 20 ml of ethanol followed by the addition of 20 ml of water. 0.25 g of NaOH in 20 ml of water were added to the mixture and stirred at 40° C. for one hour, extracted with benzene, the benzene extract was dried with sodium sulfate and evaporated. From the residue salt was formed according to the method in process a). Yield 90%. The quality of the product was identical with that of process a).

reactant | O-(3-piperidino-2-chloro-1-propyl)-benzhydroximic acid chloride | 9.49 mmoles, 3.0 g | N1(CCCCC1)CC(C[ClH]C(C1=CC=CC=C1)=NO)Cl | C15H22Cl2N2O
reactant | sodium acetate | 10-2 moles, 0.86 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | O-(3-piperidino-2-acetoxy-1-propyl)-benzhydroximic acid chloride | 2.12 g, Yield 90% | N1(CCCCC1)CC(C[ClH]C(C1=CC=CC=C1)=NO)OC(C)=O | C17H25ClN2O3
